US06423707B1
The reaction mixture of 2-methyl -5-nitroimidazole (127 g, 1.0 mol) and 88% formic acid will be cooled to 10° C. under stir, then 1,2-epoxybutane (360 g, 5.0 mol) will be added dropwise to above cold solution under the condition of 10° C. After the dropping, the reactants will be placed at room temperature overnight. The formic acid will be recovered under reduced pressure. To this residue, 100 ml of water will be added. The mixture will be filtered and the filter residue will be washed with water. The water phases will be combined, alkalified with 10 M sodium hydroxide aqueous solution up to pH 9. The solution will be placed in the cold room overnight for crystallization. The crystals will be collected, washed with water, and then dried. Crude product will be recrystallized from toluene to give 1-(2-hydroxybutyl)-2-methyl-5-nitro-1H-imidazole.

reactant | 2-methyl -5-nitroimidazole | 1.0 mol, 127 g | CC=1NC(=CN1)[N+](=O)[O-] | C4H5N3O2
reactant | 1,2-epoxybutane | 5.0 mol, 360 g | O1CC1CC | C4H8O
solvent | formic acid | C(=O)O | CH2O2
product | 1-(2-hydroxybutyl)-2-methyl-5-nitro-1H-imidazole | OC(CN1C(=NC=C1[N+](=O)[O-])C)CC | C8H13N3O3
